US07067518B2
(1R)-2-[4-(1H-indol-4-yl)piperazin-1-yl]-2-oxo-1-(pyridin-2-ylmethyl)ethylformamide
A mixture of formic acid (0.9 mL; 24 mmol) and acetic anhydride (1.8 mL; 19.5 mmol) was stirred at 60° C. for 4 hours, then cooled to ambient temperature. The resulting mixed anhydride was added to a −10° C. solution of (1R)-2-[4-(1H-indol-4-yl)piperazin-1-yl]-2-oxo-1-(pyridin-2-ylmethyl)ethylamine (prepared in two steps from 4-piperazin-1-yl-1H-indole and (2R)-2-[(tert-butoxycarbonyl)amino]-3-pyridin-2-ylpropanoic acid according to the procedures outlined in examples 1 and 2) (1.07 g.; 3.0 mmol) in THF (30 mL). The mixture was allowed to warm to ambient temperature over 3 hours, diluted with ethyl acetate, and washed with saturated aqueous Na2CO3. The organic layer was dried over MgSO4, filtered, and the solvent removed in vacuo. The crude residue was purified by flash chromatography to afford the title compound as a beige solid foam (720 mg.; 64%). MS EI M+.@ m/z 377; 1H NMR, 400 MHz, DMSO-d6.

reactant | formic acid | 24 mmol, 0.9 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 19.5 mmol, 1.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (1R)-2-[4-(1H-indol-4-yl)piperazin-1-yl]-2-oxo-1-(pyridin-2-ylmethyl)ethylamine | N1C=CC2=C(C=CC=C12)N1CCN(CC1)C([C@@H](CC1=NC=CC=C1)N)=O | C20H23N5O
reactant | 4-piperazin-1-yl-1H-indole | N1(CCNCC1)C1=C2C=CNC2=CC=C1 | C12H15N3
reactant | (2R)-2-[(tert-butoxycarbonyl)amino]-3-pyridin-2-ylpropanoic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=NC=CC=C1 | C13H18N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R)-2-[4-(1H-indol-4-yl)piperazin-1-yl]-2-oxo-1-(pyridin-2-ylmethyl)ethylformamide | N1C=CC2=C(C=CC=C12)N1CCN(CC1)C([C@@H](CC1=NC=CC=C1)NC=O)=O | C21H23N5O2
